US07727988B2
5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dimethoxy-pyrimidine (Prep61)
2,4-Dimethoxy-pyrimidine-5-boronic acid (840 mg, 4.6 mmol) was dissolved in degassed n-PrOH (40 mL) and then 5-iodo-2,4-dimethyl-oxazole (Prep60, 850 mg, 3.8 mmol), Na2CO3 (848 mg, 8 mmol), PPh3 (332 mg, 1.3 mmol) and Pd(OAc)2 (85 mg, 0.38 mmol) were added. The suspension was stirred at reflux for 4 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by SCX cartridge to give 600 mg of the title compound (66% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 4.6 mmol, 840 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 5-iodo-2,4-dimethyl-oxazole | 3.8 mmol, 850 mg | IC1=C(N=C(O1)C)C | C5H6INO
reactant | Na2CO3 | 8 mmol, 848 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 1.3 mmol, 332 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 40 mL | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.38 mmol, 85 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dimethoxy-pyrimidine | 600 mg, 66% yield | CC=1OC(=C(N1)C)C=1C(=NC(=NC1)OC)OC | C11H13N3O3
